US05262390
A solution of 20.0 g (0.0774 mole) of 1-(2-fluoro-4-aminophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 100 mL of concentrated sulfuric acid was cooled to 15°-20° C. A solution of 5.3 g (0.0774 mole) of sodium nitrite in 20 mL of water was added slowly to the sulfuric acid solution while the temperature was maintained between 15° C. and 20° C. The dark orange solution was stirred for an hour at this temperature. The solution was then added rapidly to a solution of 250 g (1.00 mole) of copper (II) sulfate pentahydrate and 2.0 g (0.0072 mole) of iron (II) sulfate heptahydrate in 250 mL of water and 250 mL of mixed xylenes. This two-phase solution was heated at reflux for one hour, after which it was cooled and the phases separated. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure, leaving a brown oil. The aqueous layer was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate and then filtered. The extract was combined with the brown oil from the organic phase, and the solvent was evaporated under reduced pressure, again leaving a brown oil. This brown oil was placed on a silica gel column and eluted with methylene chloride/ethyl acetate (90/10). The product-containing fractions were combined, and the solvent was evaporated under reduced pressure, leaving 12.17 g of 1-(2-fluoro-4-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, m p. 112°-114° C. The NMR spectrum was consistent with the proposed structure.

reactant | 1-(2-fluoro-4-aminophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0774 mole, 20.0 g | FC1=C(C=CC(=C1)N)N1N=C(N(C1=O)C(F)F)C | C10H9F3N4O
reactant | sodium nitrite | 0.0774 mole, 5.3 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 mL | O | H2O
solvent | water | 250 mL | O | H2O
catalyst | copper (II) sulfate pentahydrate | 1.00 mole, 250 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | iron (II) sulfate heptahydrate | 0.0072 mole, 2.0 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | 1-(2-fluoro-4-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 12.17 g | FC1=C(C=CC(=C1)O)N1N=C(N(C1=O)C(F)F)C | C10H8F3N3O2
